US07498337B2
4-fluoro-5-(2-fluorophenyl)-1H-pyrrole-3-carbaldehyde
To a solution (60 mL) of 5-(2-fluorophenyl)-1H-pyrrole-3-carbaldehyde (3.1 g) in tetrahydrofuran was added 2,6-dichloro-N-fluoropyridinium triflate (5.6 g) at 0° C., and the mixture was stirred at the same temperature for 2 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=2:1) to give the title compound as white crystals (yield 0.43 g, 13%).

reactant | 5-(2-fluorophenyl)-1H-pyrrole-3-carbaldehyde | 60 mL, 3.1 g | FC1=C(C=CC=C1)C1=CC(=CN1)C=O | C11H8FNO
reactant | 2,6-dichloro-N-fluoropyridinium triflate | 5.6 g | [O-]S(=O)(=O)C(F)(F)F.ClC1=[N+](C(=CC=C1)Cl)F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-fluoro-5-(2-fluorophenyl)-1H-pyrrole-3-carbaldehyde | yield 0.43 g, 13% | FC=1C(=CNC1C1=C(C=CC=C1)F)C=O | C11H7F2NO
